US08071600B2
5% palladium carbon (0.8 g) was added to an ethanol solution (30 ml) of 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-N-ethyl-3-nitrobenzamide (1.0 g, 2.1 mmol) and the mixture was subjected to catalytic reduction at room temperature under normal pressure. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. Water was added to the residue and the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and thereafter concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane:methanol=30:1→20:1). The purified product was concentrated under reduced pressure to obtain 3-amino-4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-N-ethyl-benzamide (0.78 g, 83% yield) as yellow amorphous solid.

reactant | 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-N-ethyl-3-nitrobenzamide | 2.1 mmol, 1.0 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=C(C=C(C(=O)NCC)C=C2)[N+](=O)[O-] | C24H28N4O4S
catalyst | palladium carbon | 0.8 g | [C].[Pd]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-amino-4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-N-ethyl-benzamide | 0.78 g, 83% yield | NC=1C=C(C(=O)NCC)C=CC1OCCCN1CCN(CC1)C1=CC=CC=2SC=CC21 | C24H30N4O2S
